US08058441B2
(b). 1-Acetyl-4-phenyl-6-(2-phenyl-5-methoxybenzoyl)amino-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline
Suzuki cross-coupling of 1-acetyl-4-phenyl-6-(2-bromo-5-methoxybenzoyl)amino-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline (30 mg), benzeneboronic acid (25 mg), cesium fluoride (21 mg), triphenylphosphine (7.0 mg) and tris(dibenzylideneacetone)dipalladium(0) (6.0 mg) in dimethoxyethane/ethanol 4:1 (v/v) (5 ml) was performed according to the method described in example 13.

reactant | 1-acetyl-4-phenyl-6-(2-bromo-5-methoxybenzoyl)amino-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | 30 mg | C(C)(=O)N1C(CC(C2=CC(=CC=C12)NC(C1=C(C=CC(=C1)OC)Br)=O)(C)C1=CC=CC=C1)(C)C | C28H29BrN2O3
reactant | benzeneboronic acid | 25 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | cesium fluoride | 21 mg | [F-].[Cs+]
reactant | triphenylphosphine | 7.0 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dimethoxyethane ethanol | 5 ml | C(OC)COC.C(C)O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 6.0 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-Acetyl-4-phenyl-6-(2-phenyl-5-methoxybenzoyl)amino-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | C(C)(=O)N1C(CC(C2=CC(=CC=C12)NC(C1=C(C=CC(=C1)OC)C1=CC=CC=C1)=O)(C)C1=CC=CC=C1)(C)C | C34H34N2O3
